US09120776B2
To a solution of 6-nitro-2,3,4,9-tetrahydro-1H-carbazole (250 mg, 1.16 mmol) and potassium carbonate (479 mg, 3.47 mmol) in DMF (8 mL) was added 1-bromo-2-methylpropane (0.314 mL, 2.89 mmol), and the mixture was stirred at 70° C. for 14 hr. The reaction mixture was cooled, and to the reaction solution was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (solvent gradient; 5 to 55% ethyl acetate/hexane) to give 9-isobutyl-6-nitro-2,3,4,9-tetrahydro-1H-carbazole (296 mg, 1.087 mmol, 94%) as a yellow powder.

reactant | 6-nitro-2,3,4,9-tetrahydro-1H-carbazole | 1.16 mmol, 250 mg | [N+](=O)([O-])C=1C=C2C=3CCCCC3NC2=CC1 | C12H12N2O2
reactant | potassium carbonate | 3.47 mmol, 479 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-methylpropane | 2.89 mmol, 0.314 mL | BrCC(C)C | C4H9Br
reactant | water | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 9-isobutyl-6-nitro-2,3,4,9-tetrahydro-1H-carbazole | 1.087 mmol, 296 mg, 94% | C(C(C)C)N1C2=CC=C(C=C2C=2CCCCC12)[N+](=O)[O-] | C16H20N2O2
